US08242260B2
A mixture of (S)—N1-(4-(4-bromo-2-cyclopropyl-1H-imidazol-5-yl)pyrimidin-2-yl)propane-1,2-diamine (13.3 g, 27.3 mmol, assumed theoretical yield) in 1:1 THF-water (200 mL) was cooled to 0° C. and solid NaHCO3 (20.6 g, 245 mmol) was added in portions. Methyl chloroformate (3.74 mL, 27.3 mmol) was added dropwise over 20 minutes and stirred for an additional 30 minutes. LCMS of an aliquot indicated complete reaction. Water (300 mL) was added and the resulting mixture was extracted with EtOAc (3×500 mL). The EtOAc layer was washed with brine (2×1 L), dried (Na2SO4) and concentrated. The resulting solid was suspended in a mixture of EtOAc (7 mL) and ethyl ether (25 mL) and the resulting suspension was allowed to settle at 0° C. The solids were collected and washed with cold Et2O (20 mL) to afford (S)-methyl 1-(4-(4-bromo-2-cyclopropyl-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate (9.56 g, 24.1 mmol, 89%) as an off-white solid: LCMS(m/z) 395.1 (MH+), tR=0.61 minute; 1H NMR (400 MHz, CDCl3) δ 0.91-1.03 (m, 2H), 1.08-1.19 (m, 2H), 1.22 (d, J=6.6 Hz, 3H), 1.77 (br s, 1H), 2.13-2.26 (m, 1H), 2.70-2.90 (m, 1H), 3.70 (s, 3H), 3.90-4.03 (m, 1H), 4.18-4.32 (m, 1H), 4.46-4.86 (m, 1H), 5.48-5.60 (m, 1H), 7.46 (d, J=5.5 Hz, 1H), 8.24 (d, J=5.4 Hz, 1H).

reactant | (S)—N1-(4-(4-bromo-2-cyclopropyl-1H-imidazol-5-yl)pyrimidin-2-yl)propane-1,2-diamine | 27.3 mmol, 13.3 g | BrC=1N=C(NC1C1=NC(=NC=C1)NC[C@H](C)N)C1CC1 | C13H17BrN6
reactant | THF water | 200 mL | C1CCOC1.O
reactant | NaHCO3 | 245 mmol, 20.6 g | C(=O)(O)[O-].[Na+]
reactant | Methyl chloroformate | 27.3 mmol, 3.74 mL | ClC(=O)OC | C2H3ClO2
solvent | Water | 300 mL | O | H2O
product | (S)-methyl 1-(4-(4-bromo-2-cyclopropyl-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate | 24.1 mmol, 9.56 g, 89% | BrC=1N=C(NC1C1=NC(=NC=C1)NC[C@H](C)NC(OC)=O)C1CC1 | C15H19BrN6O2
